US05010078
N-[2-[4-(2-Pyrimidinyl)-1-piperazinyl]ethyl]-3-methyltricyclo[3,3,1,13,7 ]decane-1-acetamide Dihydrochloride Hemihydrate
The title compound was prepared by stirring [4-(2-pyrimidinyl]piperazino]ethylamine (2.0 g, 0.009 mol), 3-methyladamantane-1-acetic acid bromoethyl ester (2.34 g, 0.01 mol) and triethylamine (1.0 g, 0.015 mol) in 50 mL of CH2Cl2 for 24 hours. The methylene chloride solution was washed with water, dried (anhydrous Na2SO4) and removed under reduced pressure. The remaining residue was subjected to preparative HPLC over silica gel column using ethyl acetate as the eluent and the desired product was separated and converted to the dihydrochloride hemihydrate salt with ethanolic HCl, m.p. 248°-251° C.

reactant | [4-(2-pyrimidinyl]piperazino]ethylamine | 0.009 mol, 2.0 g | N1=C(N=CC=C1)N1CCN(CC1)CCN | C10H17N5
reactant | 3-methyladamantane-1-acetic acid bromoethyl ester | 0.01 mol, 2.34 g | BrCCOC(CC12CC3(CC(CC(C1)C3)C2)C)=O | C15H23BrO2
reactant | triethylamine | 0.015 mol, 1.0 g | C(C)N(CC)CC | C6H15N
reactant | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-[2-[4-(2-Pyrimidinyl)-1-piperazinyl]ethyl]-3-methyltricyclo[3,3,1,13,7 ]decane-1-acetamide Dihydrochloride Hemihydrate | O.Cl.Cl.N1=C(N=CC=C1)N1CCN(CC1)CCNC(CC12CC3(CC(CC(C1)C3)C2)C)=O.N2=C(N=CC=C2)N2CCN(CC2)CCNC(CC23CC1(CC(CC(C2)C1)C3)C)=O.Cl.Cl | InChI=1S/2C23H35N5O.4ClH.H2O/c2*1-22-12-18-11-19(13-22)15-23(14-18,17-22)16-20(29)24-5-6-27-7-9-28(10-8-27)21-25-3-2-4-26-21;;;;;/h2*2-4,18-19H,5-17H2,1H3,(H,24,29);4*1H;1H2
